data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3584,4090,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[CH:10]=[N+:11]([CH3:12])[N-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:10]([C:8]([CH3:7])=[O:9])[N:11]([CH3:12])[N:13]1[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,21.05359104555324,-7.96973662302582
4348,4969,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([N+:16]#[C:17][C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:20](=[O:21])[O:22][CH3:23])[N:16]=[C:17]2[C:18]#[N:19],water,298.15,19.309921345201754,-26.776684483173263
308,335,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][Cl:7].[CH3:8][O:9][C:10](=[O:11])[CH:12]=[O+:13][CH-:14][C:15](=[O:16])[O:17][CH3:18]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:14]([C:15](=[O:16])[O:17][CH3:18])[O:13][CH:12]1[C:10]([O:9][CH3:8])=[O:11],water,298.15,10.637804652284808,-87.21350884024064
5170,5868,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[N:15]#[C:16][CH-:17][NH+:18]=[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[CH:17]([C:16]#[N:15])[NH:18][C:19]2([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,10.497802423923028,-3.526144143525128
1399,1540,[CH3:15][NH:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[N+:22]([CH3:23])[CH-:24][C:25]#[N:26].[CH3:1][NH:2][C:3](=[O:4])[CH:5]=[C:6]([C:7](=[O:8])[NH:9][CH3:10])[C:11](=[O:12])[NH:13][CH3:14]>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]([C:7](=[O:8])[NH:9][CH3:10])([C:11](=[O:12])[NH:13][CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:20]#[N:21])[N:22]([CH3:23])[CH:24]1[C:25]#[N:26],water,298.15,14.353293660567534,-13.917185071031176
1104,1202,[CH3:1][C:2]1=[C:3]([CH3:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2.[N:10]#[C:11][C-:12]([N+:13]#[C:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][C:2]12[C:3]([CH3:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:12]([C:11]#[N:10])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[N:13]=[C:14]2[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,26.09915728240458,-33.041245485183985
2448,2716,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([F:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][C:21](=[O:22])[C:23]([CH3:24])=[N+:25]([CH3:26])[C-:27]([CH3:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([F:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:27]([CH3:28])([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[N:25]([CH3:26])[C:23]2([C:21]([CH3:20])=[O:22])[CH3:24],water,298.15,26.774042720481173,-39.23390842965199
4579,5224,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[NH+:16]=[C:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[NH:16][C:17]1([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,33.0949862941071,-19.012204254440416
4587,5232,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[C-:13]([CH3:14])[NH+:15]=[C:16]([C:17](=[O:18])[O:19][CH3:20])[C:21](=[O:22])[O:23][CH3:24]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:13]([C:11]([NH:10][CH3:9])=[O:12])([CH3:14])[NH:15][C:16]2([C:17](=[O:18])[O:19][CH3:20])[C:21](=[O:22])[O:23][CH3:24],water,298.15,17.94631497229913,-15.455641176478627
987,1072,[CH3:12][O:13][C:14](=[O:15])[C:16]([CH3:17])=[NH+:18][C-:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:16]([C:14]([O:13][CH3:12])=[O:15])([CH3:17])[NH:18][C:19]2([C:20]#[N:21])[C:22]([CH3:23])=[O:24],water,298.15,14.916251365370195,-20.737424673300005
4978,5665,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15](=[O+:16][CH-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[C:24](=[O:25])[O:26][CH3:27]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[O:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:24](=[O:25])[O:26][CH3:27],water,298.15,7.512365064300146,-23.01747379404184
